US08236798B2
(2R,4S)-1-Benzyl-4-methyl-5-oxo-pyrrolidine-2-carboxylic Acid
To a solution of (R)-1-benzyl-5-oxopyrrolidine-2-carboxylic acid (1000 mg, 4.56 mmol) in 55 ml of THF 10.03 ml of a 1M lithium bis(trimethylsilyl)amide solution in THF (10.03 mmol) were added slowly at −10° C., and stirring was continued at this temperature for 1 h. Subsequently iodomethane (0.284 ml, 647 mg, 4.56 mmol) in 9 ml of THF were added (slight exothermic reaction), and the reaction was completed by stirring overnight at room temperature. The brown reaction mixture was acidified using 2M HCl, extracted three times with ethyl acetate. The combined organic layers were then washed with brine, dried over Na2SO4 and the solvent evaporated under reduced pressure. The title compound was obtained as a brown oil, which was reacted in the next step without further purification (890 mg of raw material, yield: 84%).

reactant | (R)-1-benzyl-5-oxopyrrolidine-2-carboxylic acid | 4.56 mmol, 1000 mg | C(C1=CC=CC=C1)N1[C@H](CCC1=O)C(=O)O | C12H13NO3
reactant | lithium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodomethane | 4.56 mmol, 0.284 ml, 647 mg | IC | CH3I
reactant | HCl | 2M | Cl | ClH
solvent | THF | 55 ml | C1CCOC1 | C4H8O
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | THF | 10.03 mmol | C1CCOC1 | C4H8O
product | (2R,4S)-1-Benzyl-4-methyl-5-oxo-pyrrolidine-2-carboxylic Acid | yield: 84% | C(C1=CC=CC=C1)N1[C@H](C[C@@H](C1=O)C)C(=O)O | C13H15NO3
